US08476294B2
Stage 21.1.2 2-(5-Bromo-pyridin-2-ylamino)-ethanol
A mixture of 5-bromo-2-chloropyridine (Aldrich, Buchs, Switzerland, 1 g, 5.2 mmol) and 2-hydroxyethylamine (1.59 g, 26 mmol) in 3 ml DMA was heated by microwaves at 170° C. for 1 h. Then the RM was quenched with saturated aqueous NaHCO3 (50 ml) and extracted with EtOAc. The organic layers were washed with saturated aqueous NaHCO3 (4×), dried over Na2SO4, filtered and evaporated. The residue was purified by flash chromatography (DCM/MeOH 0 to 5%). The fractions containing product were evaporated together to give the title compound as an off-white solid. (HPLC: tR 1.66 min (Method A); M+H=217, 219 (Br-pattern) MS-ES)

reactant | 5-bromo-2-chloropyridine | 5.2 mmol, 1 g | BrC=1C=CC(=NC1)Cl | C5H3BrClN
reactant | 2-hydroxyethylamine | 26 mmol, 1.59 g | OCCN | C2H7NO
solvent | DMA | 3 ml | CC(=O)N(C)C | C4H9NO
product | 2-(5-Bromo-pyridin-2-ylamino)-ethanol | BrC=1C=CC(=NC1)NCCO | C7H9BrN2O
